US04725617
13.4 g (30 mmoles) of N-[1-(S)-ethoxycarbonyl-3-phenyl-3-oxo-propyl]-(S)-alanyl-(S)-proline-t - butylester are dissolved in 120 ml of ethanol and hydrogenated in the presence of 1.5 g of 10% palladium-on-charcoal catalyst at room temperature. After the uptake of the theoretically needed hydrogen (720 ml), the catalyst is filtered off. A mixture of N-[1-(S)-ethoxycarbonyl-3-phenyl-3(S)-hydroxypropyl]-(S)-alanyl-(S)-proline-t-butylester and N-[1-(S)-ethoxycarbonyl-3-phenyl-3(R)-hydroxypropyl]-(S)-alanyl-(S)-proline-t-butylester is obtained.

reactant | N-[1-(S)-ethoxycarbonyl-3-phenyl-3-oxo-propyl]-(S)-alanyl-(S)-proline-t - butylester | 30 mmoles, 13.4 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N[C@@H](CC(=O)C1=CC=CC=C1)C(=O)OCC)C)=O)=O | C24H34N2O6
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 1.5 g | [Pd] | Pd
product | N-[1-(S)-ethoxycarbonyl-3-phenyl-3(R)-hydroxypropyl]-(S)-alanyl-(S)-proline-t-butylester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N[C@@H](C[C@@H](O)C1=CC=CC=C1)C(=O)OCC)C)=O)=O | C24H36N2O6
